US09255093B2
To a solution of ethyl 2-(2-formyl-4-methylphenoxy)acetate (2.24 g, 10.08 mmol) in 15 mL of DMF was added K2CO3 (2.79 g, 20.16 mmol), the mixture was stirred under nitrogen at 90° C. for 3 hr. After cooling to room temperature, the mixture was filtered through Celite, and washed with DCM. The combined filtrate was concentrated, and the resulting residue was purified by silica gel flash chromatography, 100% Heptane-20% Ethyl Acetate/80% Heptane, to give a white solid, ethyl 5-methylbenzofuran-2-carboxylate (1.2 g). LCMS retention time=1.54 minutes (LC method 3); MS (m+1)=204.8. 1H NMR (400 MHz, DMSO-d6) δ 1.33 (t, J=7.1 Hz, 3H), 2.41 (s, 3H), 4.35 (q, J=7.1 Hz, 2H), 7.34 (dd, J=8.5, 1.4 Hz, 1H), 7.55-7.63 (m, 2H), 7.68 (d, J=0.9 Hz, 1H).

reactant | ethyl 2-(2-formyl-4-methylphenoxy)acetate | 10.08 mmol, 2.24 g | C(=O)C1=C(OCC(=O)OCC)C=CC(=C1)C | C12H14O4
reactant | K2CO3 | 20.16 mmol, 2.79 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | ethyl 5-methylbenzofuran-2-carboxylate | 1.2 g | CC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C12H12O3
